US07939528B2
1,1-Dimethylethyl 2,3-dihydro-1H-inden-2-yl[(4-{[4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-3-(formylamino)phenyl]oxy}phenyl)methyl]carbamate (365 mg, 0.637 mmol) was dissolved in 20 mL of methylene chloride and stirred with 4 mL trifluoroacetic acid for approximately 18 hours. The reaction was concentrated and purified using preparative HPLC. Pure fractions were combined, diluted with ethyl acetate and washed with 1N NaOH. The aqueous layer was extracted with ethyl acetate. The organic layers were combined, dried over MgSO4 and concentrated. The residue was dissolved in ethyl acetate. 4N HCl in dioxane was added and N-{[4-(1H-benzimidazol-5-yloxy) phenyl]methyl}-2,3-dihydro-1H-inden-2-amine dihydrochloride was collected by filtration as a white precipitate. The solid was dissolved in methanol, concentrated onto basic alumina and purified by column chromatography using an ISCO™ amine functionalized silica column. (dichloromethane to 5% methanol). The purified material was dissolved in minimal methanol. HCl (4N in dioxane) was added to the solution which was concentrated to give N-{[4-(1H-benzimidazol-5-yloxy)phenyl]methyl}-2,3-dihydro-1H-inden-2-amine dihydrochloride. (Example No. 26)

reactant | 1,1-Dimethylethyl 2,3-dihydro-1H-inden-2-yl[(4-{[4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-3-(formylamino)phenyl]oxy}phenyl)methyl]carbamate | 0.637 mmol, 365 mg | C1C(CC2=CC=CC=C12)N(C(OC(C)(C)C)=O)CC1=CC=C(C=C1)OC1=CC(=C(C=C1)NC(=O)OC(C)(C)C)NC=O | C33H39N3O6
reactant | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | N-{[4-(1H-benzimidazol-5-yloxy)phenyl]methyl}-2,3-dihydro-1H-inden-2-amine dihydrochloride | Cl.Cl.N1C=NC2=C1C=CC(=C2)OC2=CC=C(C=C2)CNC2CC1=CC=CC=C1C2 | InChI=1S/C23H21N3O.2ClH/c1-2-4-18-12-19(11-17(18)3-1)24-14-16-5-7-20(8-6-16)27-21-9-10-22-23(13-21)26-15-25-22;;/h1-10,13,15,19,24H,11-12,14H2,(H,25,26);2*1H
